US06503922B2
To a stirred solution of cis-1-methyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-h]isoquinoline (120 mg, 0.64 mmol) in AcOH (2 ml) was added 1-iodononane (488 mg, 1.92 mmol). The mixture was heated at reflux under nitrogen for 3 days. AcOH was evaporated and the residue was dissolved in CHCl3. The mixture was washed with saturated aqueous NaHCO3, water and brine successively and dried. Evaporation of the solvent followed by titration with ether afforded 222 mg (79%) of cis-1-methyl-8-nonyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-h]isoquinolin-8-ium iodide (ACN) as a brown oil. 1H NMR (300 MHz, CDCl3) δ9.05 (1H, s, C9-H), 9.03 (1H, d, J6.0 Hz, C7-H), 7.81 (1H, d, J6.0 Hz, C6-H), 4.88 (2H, m. pyCH2), 3.47 (1H, d, J8.7 Hz, C9b-H), 2.36 (3H, s, NCH3), 1.60-3.10 (9H, m, CH2+CH), 2.00 (2H, m, pyCH2CH2), 1.10-1.50 (12H, m, 6×CH2), 0.83 (3H, t, J6.9 Hz, CH2CH3); 13C NMR (75 MHz, CDCl3) δ161.7, 143.4, 142.5, 139.2, 127.5, 63.5, 61.5, 55.9, 41.3, 35.9, 32.1, 32.0, 30.3, 29.5, 29.3, 29.2, 28.2, 27.6, 26.2, 22.8, 14.2.

reactant | cis-1-methyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-h]isoquinoline | 0.64 mmol, 120 mg | CN1CC[C@H]2CCC=3C=CN=CC3[C@H]21 | C12H16N2
reactant | 1-iodononane | 1.92 mmol, 488 mg | ICCCCCCCCC | C9H19I
solvent | AcOH | 2 ml | CC(=O)O | C2H4O2
product | cis-1-methyl-8-nonyl-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-h]isoquinolin-8-ium iodide | 222 mg, 79% | [I-].CN1CC[C@H]2CCC=3C=C[N+](=CC3[C@H]21)CCCCCCCCC | InChI=1S/C21H35N2.HI/c1-3-4-5-6-7-8-9-14-23-16-13-18-10-11-19-12-15-22(2)21(19)20(18)17-23;/h13,16-17,19,21H,3-12,14-15H2,1-2H3;1H/q+1;/p-1/t19-,21+;/m1./s1
